US06103762
(a) 2-tert-butyl-4-bromophenol
80.00 g (426.0 mmol) of 4-bromophenol and 8.00 g of Dowex 50WX8 sulphonic acid resin are mixed in a 250 ml three-necked flask. The mixture is heated to 80° C. and a stream of isobutylene is passed through for 30 hours. The reaction mixture is cooled and the residue is purified by passing through a silica column eluted with a mixture composed of 95% dichloromethane and of 5% heptane. 88.00 g (90%) of the expected compound are collected in the form of a yellow oil.

reactant | 4-bromophenol | 426.0 mmol, 80.00 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | isobutylene | CC(C)=C | C4H8
product | 2-tert-butyl-4-bromophenol | C(C)(C)(C)C1=C(C=CC(=C1)Br)O | C10H13BrO
